US07723333B2
3-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-hydroxybenzoate
The title compound was prepared as described for Example 5 from 2-tert-butyl-4-[(3-bromopropyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 4-hydroxybenzoic acid with a reaction time of 1.5 h. The reaction mixture was acidified with HCl (1N) and extracted with EtOAc. The organic layers were combined and evaporated to dryness. The residue was triturated in MeOH, the solvent was decanted and the residue was purified by silica gel column chromatography (Horizons Biotage) using 50% EtOAc in petroleum ether 40-60° C. as eluent to give the title compound (0.028 g, 21%). 1H NMR (500 MHz CD3CN): δ 7.80 (d, 2H), δ 7.62 (bs, 1H), 7.56-7.48 (m, 2H), 7.56-7.42 (m, 3H), 5.93 (t, 1H), 4.09 (t, 2H), 3.08-3.03 (m, 2H), 1.76-1.68 (m, 1H); 13C NMR (125 MHz CD3CN): δ 166.5, 160.6, 159.8, 135.2, 132.2, 131.8, 129.9, 128.9, 125.0, 122.2, 115.5, 107.4, 62.2, 61.1, 41.1, 28.4, 27.1; Mass Spectrum: M+H+ 459.

reactant | 2-tert-butyl-4-[(3-bromopropyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(C)(C)(C)N1S(C(=C(C1=O)NCCCBr)C1=CC=CC=C1)(=O)=O | C16H21BrN2O3S
reactant | 4-hydroxybenzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | HCl | 1N | Cl | ClH
product | 3-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-hydroxybenzoate | 0.028 g, 21% | OC1=CC=C(C(=O)OCCCNC=2C(N(S(C2C2=CC=CC=C2)(=O)=O)C(C)(C)C)=O)C=C1 | C23H26N2O6S
